US06838574B1
A mixture of ethyl 3-bromobenzoate (1.0 g, 4.37 mmol), ethynyl trimethylsilane (644 mg, 6.56 mmol), diisopropylamine (929 mg, 9.20 mmol), cuprous iodide(I) (16.6 mg, 0.0872 mmol), and bis(triphenylphosphine) palladium(II) chloride (123 mg, 0.175 mmol) was heated at 45° C. for 5 h in dried THF (8 ml) under argon atmosphere. After cooling, the reaction was quenched by the addition of water, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel flash column chromatography (eluent: hexane/ethyl acetate=50/1) to give ethyl 3-[(trimethylsilyl)-ethynyl]benzoate (90%)

reactant | ethyl 3-bromobenzoate | 4.37 mmol, 1.0 g | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | ethynyl trimethylsilane | 6.56 mmol, 644 mg | C(#C)[Si](C)(C)C | C5H10Si
reactant | diisopropylamine | 9.20 mmol, 929 mg | C(C)(C)NC(C)C | C6H15N
solvent | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.175 mmol, 123 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 3-[(trimethylsilyl)-ethynyl]benzoate | 90% | C[Si](C)(C)C#CC=1C=C(C(=O)OCC)C=CC1 | C14H18O2Si
